US09062070B2
Step C: (3S)-3-Methyl-6-(9a-methyloctahydropyrazino[2,1-c][1,4]oxazin-3-yl)isochroman-1-one
The mixture of Benzyl 9a-methyl-3-((S)-3-methyl-1-oxoisochroman-6-yl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate (215 mg, 0.500 mmol) and 10% Pd-C (56 mg, 0.05 mmol) in MeOH (10 mL) was stirred under a hydrogen balloon for 16 h. After which point, the solution was filtered through Celite and the resulting filtrate was concentrated to afford the title compound: LC/MS: m/e 317.2 (M+H)+.

reactant | Benzyl 9a-methyl-3-((S)-3-methyl-1-oxoisochroman-6-yl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | 0.500 mmol, 215 mg | CC12COC(CN1CCN(C2)C(=O)OCC2=CC=CC=C2)C=2C=C1C[C@@H](OC(C1=CC2)=O)C | C26H30N2O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd-C | 0.05 mmol, 56 mg | [Pd] | Pd
product | (3S)-3-Methyl-6-(9a-methyloctahydropyrazino[2,1-c][1,4]oxazin-3-yl)isochroman-1-one | C[C@@H]1OC(C2=CC=C(C=C2C1)C1CN2C(CO1)(CNCC2)C)=O | C18H24N2O3
